US04334015
The intermediate o-aminobenzhydrazide is prepared by refluxing 151 g (1.0 mol) methyl anthranilate and 55 g (1.1 mol) 64% aqueous hydrazine in a 250 ml round bottom flask for 2 hours. The product is recrystallized from 1.0 liter ethyl alcohol yielding 75 g of a light yellow solid, melting at 119°-121° C.

reactant | methyl anthranilate | 1.0 mol, 151 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | hydrazine | 1.1 mol, 55 g | NN | H4N2
product | o-aminobenzhydrazide | NC1=C(C(=O)NN)C=CC=C1 | C7H9N3O
